US06472359B1
H2NCH2CH2OCH2CH2NHCH2CH2OCH2CH2NH2.
Further suitable repeating units include 1,8-diamino-3,6-diaxaoctane; 1,11-diamino-3,6,9-trioxaundecane; 1,5-diamino-1,4-dimethyl-3-oxaheptane; 1,8-diamino-1,4,7-trimethyl-3,6-dioxaoctane; 1,9-diamino-5-oxanonane; 1,14-diamino-5,10-dioxatetradecane.

reactant | 1,11-diamino-3,6,9-trioxaundecane | NCCOCCOCCOCCN | C8H20N2O3
reactant | 1,5-diamino-1,4-dimethyl-3-oxaheptane | NC(COC(C(CC)N)C)C | C8H20N2O
reactant | 1,8-diamino-1,4,7-trimethyl-3,6-dioxaoctane | NC(COC(COC(CN)C)C)C | C9H22N2O2
reactant | 1,9-diamino-5-oxanonane | NCCCCOCCCCN | C8H20N2O
reactant | 1,14-diamino-5,10-dioxatetradecane | NCCCCOCCCCOCCCCN | C12H28N2O2
product | H2NCH2CH2OCH2CH2NHCH2CH2OCH2CH2NH2 | NCCOCCNCCOCCN | C8H21N3O2
